US07790714B2
(S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-propionic acid methyl ester (760 mg) was reacted with 2-acetylamino-4-methyl-thiazole-5-sulfonyl chloride (381 mg) following general procedure E to furnish (S)-2-({(S)-6-(2-acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester (800 mg) as a mixture of diastereomers. The diastereomers were separated by flash chromatography over silica (DCM:EtOAc 9:1-6:4). The more polar diasteromer (LC-MS m/z 982, 12 mg) was hydrolyzed using the general procedure B to furnish title compound (8 mg, more polar diastereomer). LC-MS (m/z):967.

reactant | (S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-propionic acid methyl ester | 760 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1NCC=2C=C3O[C@H](C(NC3=CC2C1)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)=O | C42H34Cl2N4O6
reactant | 2-acetylamino-4-methyl-thiazole-5-sulfonyl chloride | 381 mg | C(C)(=O)NC=1SC(=C(N1)C)S(=O)(=O)Cl | C6H7ClN2O3S2
product | (S)-2-({(S)-6-(2-acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | 800 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1N(CC=2C=C3O[C@H](C(NC3=CC2C1)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)Cl)S(=O)(=O)C1=C(N=C(S1)NC(C)=O)C)=O | C48H40Cl2N6O9S2
